US09334269B2
To a solution of 2-(3-hydroxypropyl) isoindoline-1,3-dione (1.8 g, 8.77 mmol) in CH2Cl2 (30 mL, 3 mL/mmol) was added Et3N (2 mL, 13.1 mmol). After stirring for 10 min at 0° C., tosylchloride (2 g, 10.5 mmol) was added and the reaction was stirred for 12 h at RT. The reaction was quenched with water and extracted with CH2Cl2 (2×50 mL). The organic extracts were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by silica gel column chromatography provided 3-(1,3-dioxoisoindolin-2-yl)propyl 4-methylbenzenesulfonate (3 mg, 96%). Observed mass (M+1): 360.1.

reactant | 2-(3-hydroxypropyl) isoindoline-1,3-dione | 8.77 mmol, 1.8 g | OCCCN1C(C2=CC=CC=C2C1=O)=O | C11H11NO3
reactant | Et3N | 13.1 mmol, 2 mL | CCN(CC)CC | C6H15N
reactant | tosylchloride | 10.5 mmol, 2 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(1,3-dioxoisoindolin-2-yl)propyl 4-methylbenzenesulfonate | 3 mg, 96% | CC1=CC=C(C=C1)S(=O)(=O)OCCCN1C(C2=CC=CC=C2C1=O)=O | C18H17NO5S
